*****************************************************************
* NXP BUK7Y65-100E
*
* Polarity N-Channel
* Ratings 100V/6.500000E-002OHMS/18.9189098072948A
*
* Date Created Wed Feb 06 06:31:57 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y65-100E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5.3e-10
RLS2 SOURCE 8 1.33203528512207
RLS1 8 7 0.0002

RDS 7 4 100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0419973715511512 TC=0.00563953322237076,3.37646235498425E-05
RBD 9 4 0.00267112264974995 TC=0.00563953322237076,3.37646235498425E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 6.9e-10
RG 1 2 2.70663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	798.702
+ -16	797.889
+ -15	797.542
+ -12	796.448
+ -10	795.379
+ -8	793.732
+ -6	789.754
+ -5	780.822
+ -4	839.986
+ -3	772.499
+ -2	673.411
+ -1	564.861
+ -0.5	495.596
+ -0.2	446.917
+ -0.1	445.513
+ 0	383.359
+ 0.1	307.82
+ 0.2	307.53304
+ 0.5	261.32872
+ 1	224.66556
+ 2	177.14052
+ 3	153.11648
+ 4	138.47496
+ 5	127.87468
+ 6	119.93916
+ 8	108.80556
+ 10	101.001
+ 12	95.02823
+ 15	88.18057
+ 20	80.03843
+ 30	69.70883
+ 50	58.61962



.MODEL MINT NMOS(Vto=4.72546443893904 Kp=0.835123e+002 Nfs=1240000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=5.8957326438136e-14
+ N=1 M=0.62 VJ=0.5 Fc=0.5 Cjo=2.3892596e-10 Tt=2.2048e-08)

.ENDS

